US08471040B2
(R)-3-((S)-1-Hydroxy-2-methylsulfanylethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
(R)-(S)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester (1.0 g, 4.7 mmol, 1.0 eq.) in DMF (10 mL) was combined with sodium methyl mercaptide (2.5 g, 14.1 mmol, 3.0 eq.), and the resulting mixture was stirred at 50° C. for 3 hours under nitrogen. Upon completion of the reaction, the mixture was concentrated under vacuum, extracted with EtOAc, washed with saturated aqueous NaCl and water, dried, and concentrated. The crude product was purified by preparative HPLC (MeCN:EtOH=4:6) to yield the title compound (700 mg).

reactant | (R)-(S)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 4.7 mmol, 1.0 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@@H]1OC1 | C11H19NO3
reactant | sodium methyl mercaptide | 14.1 mmol, 2.5 g, 3.0 eq. | C[S-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-3-((S)-1-Hydroxy-2-methylsulfanylethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | 700 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@@H](CSC)O | C12H23NO3S
